US04769472
3-(2-Epoxymethoxyphenyl)thieno[2,3-d]isoxazole
A mixture of 6.3 g of 3-(2-hydroxyphenyl)thieno[2,3-d]isoxazole, 5 g of epibromohydrin and 2.6 g of potassium carbonate in 37 ml of acetonitrile was stirred under nitrogen at 70°-80° C. until completion of the reaction. The reaction was complete after 28 hours and the mixture was left to cool to room temperature. Quenching with water, extraction with ether/ethyl acetate (1:1), washing and drying (over anhydrous magnesium sulfate) gave 6.34 g of a crude oil. The epoxide was separated by high performance liquid chromatography (HPLC hereafter) using ethyl acetate/hexane (2:1) as an eluent, yielding 5.22 g of crystal. This was recrystallized from ether/hexane, m.p. 65°-67° C.

reactant | 3-(2-hydroxyphenyl)thieno[2,3-d]isoxazole | 6.3 g | OC1=C(C=CC=C1)C1=NOC2=C1SC=C2 | C11H7NO2S
reactant | epibromohydrin | 5 g | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 37 ml | C(C)#N | C2H3N
product | 3-(2-Epoxymethoxyphenyl)thieno[2,3-d]isoxazole | 5.22 g | O1C2=C(C=CC(=C21)OC)C2=NOC1=C2SC=C1 | C12H7NO3S
